US04194008
Using the same process, 4-methyl-2,6-diethylaniline and thiophosgene give 4-methyl-2,6-diethyl-phenyl isothiocyanate, boiling point 113°-116° C./1.2 mm Hg.

reactant | 4-methyl-2,6-diethylaniline | CC1=CC(=C(N)C(=C1)CC)CC | C11H17N
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
product | 4-methyl-2,6-diethyl-phenyl isothiocyanate | CC1=CC(=C(C(=C1)CC)N=C=S)CC | C12H15NS
